US04766118
4-Oxo-4-(3,4-dihydro-7-methyl-3-oxo-1,4(2H)-benzoxazin-6-yl)-3-methylbutyric acid
3,4-Dihydro-7-methyl-6-(1-oxopropyl)-3-oxo-1,4(2H)-benzoxazine (23.7 g) was added to a mixture of 13 g of dimethylamine hydrochloride and 15 ml of 37% aqueous formaldehyde solution in 68 ml of acetic anhydride. After heating on a steam bath for three hours, 50 ml of acetone was added and heating was continued for 15 minutes. The solvents were removed by evaporation at reduced pressure and the residue was dissolved in 1N HCl and washed with ethyl acetate. The aqueous layer was basified with sodium hydroxide and the resultant crystals were collected by filtration. This product was dissolved in 500 ml of acetone and 10 ml of iodomethane were added. After heating at reflux overnight, the solid which formed was collected by filtration and washed with acetone. The product was dissolved in 400 ml of 50% aqueous methanol and 18 g of potassium cyanide in 200 ml of water was added. After stirring overnight at room temperature, the solid was collected and washed with water. The damp filter cake was suspended in 500 ml of 6N HCl and heated at reflux for 1.5 hours. Upon cooling a white precipitate formed which was collected by filtration and washed with water to give 19.4 g (81% yield) of the title compound, mp 169.5°-172° C.

reactant | 3,4-Dihydro-7-methyl-6-(1-oxopropyl)-3-oxo-1,4(2H)-benzoxazine | 23.7 g | CC1=CC2=C(NC(CO2)=O)C=C1C(CC)=O | C12H13NO3
reactant | dimethylamine hydrochloride | 13 g | Cl.CNC
reactant | formaldehyde | 15 ml | C=O | CH2O
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | acetic anhydride | 68 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Oxo-4-(3,4-dihydro-7-methyl-3-oxo-1,4(2H)-benzoxazin-6-yl)-3-methylbutyric acid | 19.4 g, 81% yield | O=C(C(CC(=O)O)C)C=1C(=CC2=C(NC(CO2)=O)C1)C | C14H15NO5
